US06897224B2
3-[1-(2-Chloro-5-fluorophenyl)cyclobut-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-propan-2-ol
Analogously to Example 79, 200 mg (0.64 mmol) of 3-[1-(2-chloro-5-fluorophenyl)cyclobut-1-yl]-2-(trifluoromethyl)-propanal and 126 mg (0.80 mmol) of 5-amino-2-methylquinoline are reacted, and the isolated crude product is reduced with 102 mg (2.70 mmol) of NaBH4. After chromatography on silica gel with hexane-ethyl acetate, 165 mg of product is obtained.

reactant | 3-[1-(2-chloro-5-fluorophenyl)cyclobut-1-yl]-2-(trifluoromethyl)-propanal | 0.64 mmol, 200 mg | ClC1=C(C=C(C=C1)F)C1(CCC1)CC(C=O)C(F)(F)F | C14H13ClF4O
reactant | 5-amino-2-methylquinoline | 0.80 mmol, 126 mg | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
reactant | NaBH4 | 2.70 mmol, 102 mg | [BH4-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-[1-(2-Chloro-5-fluorophenyl)cyclobut-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-propan-2-ol | 165 mg | ClC1=C(C=C(C=C1)F)C1(CCC1)CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F | C24H23ClF4N2O
